US07576072B2
Step D: Preparation of 6-bromo-7-fluoro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine:
To a solution of 6-bromo-7-fluoro-5-methyl-3H-imidazo[4,5-b]pyridine (1.00 equivalent) in DMF is added iodomethane (1.20 equivalents) and K2CO3 (1.50 equivalents) at room temperature. The resulting mixture is stirred at 75° C. for 1 hour. The reaction mixture is diluted with EtOAc and washed with water and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is purified by trituration or flash column chromatography to afford the desired product.

reactant | 6-bromo-7-fluoro-5-methyl-3H-imidazo[4,5-b]pyridine | 1.00 equivalent | BrC=1C(=C2C(=NC1C)NC=N2)F | C7H5BrFN3
reactant | iodomethane | 1.20 equivalents | IC | CH3I
reactant | K2CO3 | 1.50 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-bromo-7-fluoro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine | BrC=1C(=C2C(=NC1C)N(C=N2)C)F | C8H7BrFN3
